US06869955B2
Part A. A solution of 2-trifluoromethylphenylboronic acid (prepared according to the methods described in the review by N. Miyaura and A. Suzuki, Chem. Rev. 1995, 95, p. 2457) (1.00 g, 5.27 mmol), 4,6-dichloro-2-methyl-5-nitropyrimidine (0.91 g, 4.39 mmol) and tetrakis(triphenyl-phosphine)palladium (147 mg) in benzene (15 mL) was treated with aq. sodium carbonate solution (6 mL, 1 M). This mixture was heated to reflux for 6 h, then cooled and partitioned between water and ethyl acetate (60 mL each). The organic layer was washed with brine, and the aqueous layers were back-extracted in sequence with more ethyl acetate. The organic extracts were combined, dried over sodium sulfate, filtered and evaporated. The residue was separated by column chromatography (silica gel, 15:85 ethyl acetate-hexane) to afford 4-chloro-2-methyl-5-nitro-6-(2-trifluoromethylphenyl)pyrimidine (0.64 g, 2.01 mmol, 38%) as a waxy solid. Spectral data: RF 0.40 (20:80 ethyl acetate-hexane). 1H NMR (300 MHz, CDCl3) δ7.84-7.81 (1H, m), 7.69-7.63 (2H, m), 7.38-7.35 (1H, m), 2.84 (3H, s). MS (NH3-CI) m/e 320 (24), 319 (26), 318 (100).

reactant | 2-trifluoromethylphenylboronic acid | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4,6-dichloro-2-methyl-5-nitropyrimidine | 4.39 mmol, 0.91 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)C | C5H3Cl2N3O2
reactant | sodium carbonate | 1 M, 6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 4-chloro-2-methyl-5-nitro-6-(2-trifluoromethylphenyl)pyrimidine | 2.01 mmol, 0.64 g, 38% | ClC1=NC(=NC(=C1[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F)C | C12H7ClF3N3O2
